US06927221B2
10-butyl-mesityl-2,5-dimethyl-7,8,9,10-tetrahydro-6H-pyrazolo[5′,1′-:2,3]pyrimido[4,5-b]azepine
Sodium iodine (catalytic amount) and potassium carbonate (65 mg, 0.47 mmol) were added to a solution of N-butyl-N-(6-(4-chlorobutyl)-3-mesityl-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)amine (65 mg, 0.15 mmol) in 1-methyl-2-piperidone (2 mL), followed by stirring at 150° C. for four hours. Then, the mixture was treated with water, extracted with ethyl acetate, dried over anhydrous magnesium sulfate and evaporated. The residue was purified by silica gel chromatography (15% ethyl acetate/hexane), to give the title compound (18 mg) as yellow crystals.

reactant | Sodium iodine | [I].[Na]
reactant | potassium carbonate | 0.47 mmol, 65 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-butyl-N-(6-(4-chlorobutyl)-3-mesityl-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)amine | 0.15 mmol, 65 mg | C(CCC)NC1(C(=NC=2N(C1)N=C(C2C2=C(C=C(C=C2C)C)C)C)C)CCCCCl | C25H37ClN4
reactant | water | O | H2O
solvent | 1-methyl-2-piperidone | 2 mL | CN1C(CCCC1)=O | C6H11NO
product | 10-butyl-mesityl-2,5-dimethyl-7,8,9,10-tetrahydro-6H-pyrazolo[5′,1′-:2,3]pyrimido[4,5-b]azepine | 18 mg | C(CCC)N1C2=C(CCCC1)C(=NC=1N2N=C(C1C1=C(C=C(C=C1C)C)C)C)C | C25H34N4
